US05840732
ii) Synthesis of 5-propylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride
To a solution of 1.37 g (3.79 mmol) of 5-propylidene-3-(4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione in 50 ml of methanol, 0.35 ml of concentrated hydrochloric acid was added. After the solvent was distilled off, the residue was washed with diethyl ether to yield 1.66 g (100%, yellow oily substance) of the desired product.

reactant | 5-propylidene-3-(4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione | 3.79 mmol, 1.37 g | C(CC)=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | C17H19N3O2S2
reactant | hydrochloric acid | 0.35 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 5-propylidene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride | Cl.C(CC)=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | InChI=1S/C17H19N3O2S2.ClH/c1-2-6-13-16(21)20(17(22)24-13)10-3-4-12-23-15-8-5-7-14-18-9-11-19(14)15;/h5-9,11H,2-4,10,12H2,1H3;1H
